Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
bee venom (honey bee)
 
Attending: ___.
 
Chief Complaint:
multiple episodes concerning for seizures
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ man with a history of anxiety,
hyperthyroidism, hyperlipidemia who presents with 2 episodes
concerning for seizures.

The history is obtained from the patient and his supplemented by
the wife.

The report that he was otherwise in his usual state of health
yesterday up until about 10:30 ___.  He had been smoking medical
marijuana prior to this episode.  His wife noted that he all of 
a
sudden had speech and behavior arrest, followed by right hand
curling, which then led to generalized body convulsions or
flailing.  The eyes were open and the head rolled back.  The
patient denies any warning prior to this episode, including
prodromal symptoms.  The entire episode lasted about 2 minutes,
during which was unresponsive.  There was no urinary 
incontinence
or tongue biting.  After the episode, the wife thought that he
will appeared confused for ___ minutes.  He felt generally
fatigued all over without focal weakness or sensory changes.  He
did have a mild headache prior to this episode otherwise, no 
sick
symptoms recently including cough, fevers, chills, runny nose,
burning on urination, diarrhea.  He has been sleeping less
recently due to his ___ cat being sick.

He then went to bed feeling slightly better, and decided not to
go to the hospital at this time.  The next morning, he woke up
feeling well, and was able to go to work.  While sitting in a
computer, he reports "losing a minute."  He did not fall off the
chair.  Again, no tongue biting or urinary incontinence.  He
called his wife, who thought that maybe he was slurring his
words.  She advised him to go to the emergency department.

Regarding previous  seizure risk factors, he never had seizures
growing up.  Never had a meningoencephalitis.  Denies head 
trauma
in the past. no frequent sense of déjà ___ or ___.  No
constitutional symptoms including night sweats or weight loss. 
He reports being up-to-date with cancer screening.
 
 
Past Medical History:
Hyperthyroidism, hyperlipidemia, anxiety, GERD, chronic back 
pain

 
Social History:
___
Family History:
 No family history of seizures or other neurologic
disorders.
 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==============================
General:  NAD, appears anxious
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. No apraxia. No
evidence of hemineglect. No left-right confusion. Able to follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg.

DISCHARGE PHYSICAL EXAM: 
=======================
Vitals: T98.0  BP 136/79 HR 69 RR 16 O2 sat 96% RA 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full sentences and intact verbal comprehension. No paraphasias.  
No dysarthria. Normal prosody. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing intact to 
finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      3+       1
 R  2+    2+     2+      3+       1  

Plantar response flexor bilaterally, bilateral crossed adductors 


- Sensory: No deficits to light touch throughout

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: deferred

 
Pertinent Results:
LAB DATA:
=========
___ 01:09PM BLOOD WBC: 8.4 RBC: 4.87 Hgb: 15.0 Hct: 42.8
MCV: 88 MCH: 30.8 MCHC: 35.0 RDW: 12.3 RDWSD: 39.___ 
___ 05:16PM BLOOD ___: 11.2 PTT: 30.5 ___: 1.0 
___ 01:09PM BLOOD Glucose: 86 UreaN: 14 Creat: 0.9 Na: 136
K: 4.4 Cl: 99 HCO3: 21* AnGap: 16 
___ 01:09PM BLOOD cTropnT: <0.01 
___ 01:09PM BLOOD Albumin: Pending Calcium: 9.6 Phos: 3.7
Mg: 2.1 
___ 01:09PM URINE Color: Yellow Appear: Clear Sp ___: 
1.018

___ 01:09PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 01:09PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: NEG mthdone: NEG 

IMAGING:
========
NCHCT: no acute intracranial process

MRI brain:
 
Brief Hospital Course:
___ is a ___ man with a history of anxiety, 
hyperthyroidism, hyperlipidemia who presents with 2 episodes 
concerning for seizures. By history, which is notoriously 
difficult to elucidate in its entirety, it is possible that the 
first event on his couch could represent a seizure, especially 
given the possible focality of onset with right-sided finger 
curling leading to perhaps secondary generalization. The episode 
that happened at office is unwitnessed and therefore impossible 
to fully determine what it is.  However, he has had 2 episodes 
within 12 hours of impaired awareness, without clear provoking 
factors other than the marijuana as above which is not known to 
be particularly associated with decreased seizure threshold. 
That being said, however, the event was preceded by marijuana 
use, which could cause hypotension. He was sitting upright 
during these episodes, did not have bowel/bladder incontinence, 
and was able to speak immediately after the spells, which may be 
consistent with convulsive syncope. This is the more likely 
diagnosis given his normal neurologic exam, toxic-metabolic 
workup, MRI, and EEG. He will follow up in neurology clinic. 

His neurologic exam was normal. Toxic metabolic workup was 
unrevealing. NCHCT was without hemorrhage or infarct. He was 
admitted to the general neurology service for expedited work-up 
of seizures. MRI brain with and without contrast was normal. 
cvEEG was also normal 

TRANSITIONAL ISSUES: 
====================
[ ] f/u blood pressure
[ ] call ___ to schedule a neurology appointment with 
Dr. ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methimazole 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. FLUoxetine 20 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Gabapentin 800 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  FLUoxetine 20 mg PO DAILY  
3.  Gabapentin 800 mg PO DAILY  
4.  Methimazole 5 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Convulsive syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you episodes concerning for 
seizures. 

While you were in the hospital you had blood work which did not 
show infection or electrolyte abnormalities which would cause 
seizures.

You had imaging of your brain, which was normal.

You were monitored on "EEG" or brain wave test which was also 
normal and did not show seizures.

Based on your history of what happened and the fact that you 
could talk immediately after the episode, we are suspicious that 
these events were likely syncopal (ie passing out due to low 
blood pressure) rather than seizure. It may have been triggered 
by marijuana use, which can precipitate low blood pressure. 
Please try to stop using marijuana and follow up with your 
primary care physician in the next ___ weeks. Please also call 
Dr. ___ office at ___ to make a follow-up 
neurology appointment.

Now that you are leaving the hospital, per MA state law, you may 
not drive for the next 6 months due to this episode of loss of 
consciousness. Please also be careful and do not swim or climb 
on tall objects unsupervised. 

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___